Trivial mixer using Skywater models.

** opencircuitdesign pdks install
.lib /home/ttuser/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt

* The power supply.
Vdd vdd 0 1.8
Vss vss 0 0
* The RF bias
*Vrfin rfin 0 0.8
Vrfin rfin 0 sin(0.8 1m 7MEG)
* The LO bias
* PULSE ( V1 V2 TD TR TF PW PER NP )
Vlo_p lo_p 0 0.7
Vlo_m lo_m 0 0.0
*Vlo_p lo_p 0 pulse(0 0.7 0 1p 1p .28u .56u)
*Vlo_m lo_m 0 pulse(0.7 0 0 1p 1p .28u .56u)

* Transconductance Stage

* Notice that the MOSFET is represented as a subcircuit (starts with X!)
* Drain/Gate/Source/Body
XMn1 v1 rfin vss vss sky130_fd_pr__nfet_01v8 
+ L=0.15 W=1.5 nf=1 
+ ad='int((nf+1)/2) * W/nf * 0.29' 
+ as='int((nf+2)/2) * W/nf * 0.29' 
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' 
+ nrd='0.29 / W' 
+ nrs='0.29 / W' 
+ sa=0 sb=0 sd=0 mult=1 m=1

* Switching Stage

XMn2_p v2_p lo_p v1 vss sky130_fd_pr__nfet_01v8 
+ L=0.15 W=1.5 nf=1 
+ ad='int((nf+1)/2) * W/nf * 0.29' 
+ as='int((nf+2)/2) * W/nf * 0.29' 
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' 
+ nrd='0.29 / W' 
+ nrs='0.29 / W' 
+ sa=0 sb=0 sd=0 mult=1 m=1

XMn2_m v2_m lo_m v1 vss sky130_fd_pr__nfet_01v8 
+ L=0.15 W=1.5 nf=1 
+ ad='int((nf+1)/2) * W/nf * 0.29' 
+ as='int((nf+2)/2) * W/nf * 0.29' 
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' 
+ nrd='0.29 / W' 
+ nrs='0.29 / W' 
+ sa=0 sb=0 sd=0 mult=1 m=1

* ----- Top Load Stage (Diode connected PMOS) -----

* D G S B (drain is more negative)
XM3_p v2_p v2_p vdd vdd sky130_fd_pr__pfet_01v8 
+ L=0.3 W=1.0 nf=1 
+ ad='int((nf+1)/2) * W/nf * 0.29' 
+ as='int((nf+2)/2) * W/nf * 0.29' 
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' 
+ nrd='0.29 / W' 
+ nrs='0.29 / W' 
+ sa=0 sb=0 sd=0 mult=1 m=1

XM3_m v2_m v2_m vdd vdd sky130_fd_pr__pfet_01v8 
+ L=0.3 W=1.0 nf=1 
+ ad='int((nf+1)/2) * W/nf * 0.29' 
+ as='int((nf+2)/2) * W/nf * 0.29' 
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' 
+ nrd='0.29 / W' 
+ nrs='0.29 / W' 
+ sa=0 sb=0 sd=0 mult=1 m=1

* ==================================================

.control
; Delete all of the plots
destroy all
.options savecurrents
tran 100p 4000n

; ----- Plots ------

set xbrushwidth=2
*print v(v1)
*print @m.xmn1.msky130_fd_pr__nfet_01v8[id]
*print @m.xmn2_p.msky130_fd_pr__nfet_01v8[id]
*print @m.xmn2_m.msky130_fd_pr__nfet_01v8[id]
*print v(v2_p) @r3_p[i] v(v2_m) @r3_m[i]

*plot v(v1) v(v2_p) v(v2_m)
*plot @m.xmn1.msky130_fd_pr__nfet_01v8[id] @m.xmn2_p.msky130_fd_pr__nfet_01v8[id] @m.xmn2_m.msky130_fd_pr__nfet_01v8[id]

*plot v(lo_p)
*plot v(lo_m)

plot v(v1)

*plot v(v2_p)
*plot v(v2_m) 

.endc

.end
